US07193092B2
1,6-Di-O-(p-toluenesulphonyl)-2,5-anhydro-D-mannitol (B3):
5.33 g (27.945 mmol) of p-toluenesulphonyl chloride were added at 0° C. to a solution of 2.16 g (13.15 mmol) of 2,5-anhydro-D-mannitol in 88 ml of pyridine. The mixture was heated to room temperature and stirred for a further 24 hours. The reaction was hydrolysed using ice-water and extracted using CH2Cl2, and the combined organic phases were washed with 3N HCl and NaCl. After drying over MgSO4, the solvent was subsequently removed under reduced pressure. The crude product was purified by means of column chromatography (hexane/ethyl acetate 1:2). Yield: 3.00 g (48% of theory).

reactant | p-toluenesulphonyl chloride | 27.945 mmol, 5.33 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2,5-anhydro-D-mannitol | 13.15 mmol, 2.16 g | C([C@@H]1[C@@H](O)[C@H](O)[C@H](O1)CO)O | C6H12O5
solvent | pyridine | 88 ml | N1=CC=CC=C1 | C5H5N
product | 1,6-Di-O-(p-toluenesulphonyl)-2,5-anhydro-D-mannitol | C1(=CC=C(C=C1)S(=O)(=O)OC[C@@H]1[C@@H](O)[C@H](O)[C@H](O1)COS(=O)(=O)C1=CC=C(C=C1)C)C | C20H24O9S2
